US06420426B1
A solution of [2-(4-bromo-2-fluoro-benzylcarbamoyl)-5-chloro-phenoxy]-acetic acid ethyl ester (1.23 g, 2.8 mmol) in ethanol (16 mL, 0.18 M) was cooled to 0° C. and treated with aq NaOH (1.25 M, 7.0 mL, 8.7 mmol). After stirring for 2.5 h, the solution was warmed to room temperature and stirred an additional 24 h. Next, the solution was acidified to pH 1-2 with 2 N HCl, diluted with ethyl acetate and washed with saturated aq NaCl. The organic layer was dried over Na2SO4, filtered and concentrated to give [2-(4-bromo-2-fluoro-benzylcarbamoyl)-5-methoxy-phenoxy]-acetic acid as a white solid (1.03 g, 89%): mp 203-204° C.; Rf 0.10 (10% methanol in dichloromethane); 1H NMR (DMSO-d6, 300 MHz) δ 9.02 (br t, J=5.9 Hz, 1H), 7.84, (d, J=8.2 Hz, 1H), 7.50, (br d, J=8.7 Hz, 1H), 7.48-7.29 (m, 2H), 6.69-6.8 0 (m, 2H), 4.87 (s, 2H), 4.49 (d, J=5.8 Hz, 2H), 3.79 (s, 3H). ESI-LC/MS m/z calcd for C17H15BrFNO5: 411.0; found 412.0 (M+1)−. Anal. calcd for C17H15BrFNO5: C, 49.53; H, 3.67; N, 3.40. Found C, 49.48; H, 3.68; N, 3.39.

reactant | [2-(4-bromo-2-fluoro-benzylcarbamoyl)-5-chloro-phenoxy]-acetic acid ethyl ester | 2.8 mmol, 1.23 g | C(C)OC(COC1=C(C=CC(=C1)Cl)C(NCC1=C(C=C(C=C1)Br)F)=O)=O | C18H16BrClFNO4
reactant | NaOH | 8.7 mmol, 1.25 M, 7.0 mL | [OH-].[Na+]
reactant | HCl | 2 N | Cl | ClH
reactant | ethanol | 0.18 M, 16 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [2-(4-bromo-2-fluoro-benzylcarbamoyl)-5-methoxy-phenoxy]-acetic acid | 1.03 g, 89% | BrC1=CC(=C(CNC(=O)C2=C(OCC(=O)O)C=C(C=C2)OC)C=C1)F | C17H15BrFNO5
